US07132551B2
2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-1-[1-(4-trifluoromethyl-phenyl)-cyclobutyl]-ethanone (30 mg) was dissolved in 3 mL of dry methanol and solid sodium borohydride (10 equiv.) was added in portions. Water (10 mL) was added and the mixture was extracted with ether and the ether extracts were concentrated in vacuo and purified on silica gel to give the desired 2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-1-[1-(4-trifluoromethyl-phenyl)-cyclobutyl]-ethanol (21 mg, 67%). Data for this mixture of diastereomeric amino alcohols: MS 502 (M+1); 1H NMR (300 MHz, CDCl3): δ 7.5–7.6 (m, 4H), 7.29–7.35 (m, 2H), 6.89–6.96 (overlapping doublets, total 2 H), 3.8–4.0 (m, 4H, 1 of which is exchanged upon exposure to D2O), 1.1–3.1 9 (various overlapping multiplets totaling 17 H); 13C NMR (75 MHz, CDCl3): δ 207 peak in starting ketone is absent. Most peaks are doubled (adjacent equal intensity peaks) due to diastereoisomerism: δ 161.7, 151.0, 128.6 & 128.5, 128.0 & 127.8, 127.15 & 127.10, 126.45, 124.91 & 124.87, 123.30, 122.86, 114.63, 71.2 & 71.1, 59.7 & 59.5, 58.99 & 58.97, 55.96, 49.31 & 49.28, 36.8 & 36.6, 31.0, 29.5 & 29.4, 27.33 & 27.26, 25.24 & 25.03, 16.42.

reactant | 2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-1-[1-(4-trifluoromethyl-phenyl)-cyclobutyl]-ethanone | 30 mg | FC(C1=CC=C(OCC2CN(CCC2)CC(=O)C2(CCC2)C2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C26H27F6NO2
reactant | sodium borohydride | 10 equiv. | [BH4-].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-1-[1-(4-trifluoromethyl-phenyl)-cyclobutyl]-ethanol | 21 mg, 67% | FC(C1=CC=C(OCC2CN(CCC2)CC(O)C2(CCC2)C2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C26H29F6NO2
